* C:\Program Files\LTC\LTspiceIV\Photoresistor_Array\Photoresistor_Test.asc
Rload0 Read0 0 100k
Vcon0 Vcon0 0 {Vcon0}
DI0 P001 Read0 1N914
Vl0 P002 0 {lux0_0}
XX0 P002 Vcon0 P001 photoresistor

* block symbol definitions
.subckt photoresistor Lux R+ R-
B1 R+ R- I=V(R+,R-)*V(l1)**{expon}/{rlum1}
E1 N001 0 Lux 0 1
Rdark R+ R- {Rdark}
C1 l1 0 Q=51.95u*ln(1+ABS(x)*7.8E-3)
C2 R+ R- 3.5p
D2 N001 l1 Dsw
R1 Lux 0 1K
.model dsw D(Ron=17k Roff=100k Vfwd=0)
.param Rdark=5MEG
.param expon=.55 rlum1=80k
.ends photoresistor

.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.op
*********************************** Lux Parameters***********************************
.param
+lux0_0=0.452514478055
*********************************** End Lux Parameters*****************************
.param Rdark=1MEG Rlight=1
****************************** Voltage Parameters*******************************
.param
+vcon0=5
*************************** End Voltage Parameters***************************
;dc Vl0 10 20 1
.backanno
.end
